US07495016B2
7.5 Preparation of 3-[4-(4-benzyloxy-3-cyclopentyloxyphenyl) -2-oxo-pyrrolidin-1-yl]-benzonitrile according to General Procedure II
A mixture of 4-(4-benzyloxy-3-cyclopentyloxyphenyl)pyrrolidin-2-one, 3-bromobenzonitrile, phenol (0.1 mmol), copper acetate (0.15 mmol), arylboronic acid (0.12 mmol), 4 Å Molecular Sieves (“MS”) (˜100 mg) and CH2Cl2 (1 mL) was created in a dry round bottom flask. (CH3)3N (0.22 mmol) was added, the flask was sealed, and the mixture was stirred for 24 h. The reaction mixture was then diluted with 10 mL of CH2Cl2 and filtered. The filtrate was washed with saturated NH4Cl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel or preparative liquid chromatography-mass spectrometry LC-MS to give pure product. Yield: 74%.

reactant | 4-(4-benzyloxy-3-cyclopentyloxyphenyl)pyrrolidin-2-one | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1CC(NC1)=O)OC1CCCC1 | C22H25NO3
reactant | 3-bromobenzonitrile | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | phenol | 0.1 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | (CH3)3N | 0.22 mmol | N(C)(C)C | C3H9N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 0.15 mmol | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-benzyloxy-3-cyclopentyloxyphenyl) -2-oxo-pyrrolidin-1-yl]-benzonitrile | Yield: 74% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O)OC1CCCC1 | C29H28N2O3
